US05580887
N-[2-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide
A mixture of 6-fluoro-3-(4-piperazinyl)-1H-indazole (4.0 g, 18 mmol), K2CO3 (2.7 g, 20 mmole), N-(2-bromoethyl)phthalimide (4.8 g, 19 mmole) and CH3CN (100 ml) was stirred at reflux under N2 for 4 hours. After standing at ambient temperature for 65 hours, the reaction was poured into H2O. The resultant solid was collected to yield 4.0 g of a yellow powder. The product was recrystallized twice from ethanol to yield 3.5 g (50%) of a beige powder m.p.=220°-223 ° C.

reactant | 6-fluoro-3-(4-piperazinyl)-1H-indazole | 18 mmol, 4.0 g | FC1=CC=C2C(=NNC2=C1)N1CCNCC1 | C11H13FN4
reactant | K2CO3 | 20 mmole, 2.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(2-bromoethyl)phthalimide | 19 mmole, 4.8 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | CH3CN | 100 ml | CC#N | C2H3N
solvent | H2O | O | H2O
product | N-[2-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide | 4.0 g | FC1=CC=C2C(=NNC2=C1)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H20FN5O2
